US08022206B2
7-[(R)-1-(2,6-Dichloro-3-fluorophenyl)-ethoxy]-3-(3,6-dihydro-2H-pyran-4-yl)-furo[3,2-c]pyridin-6-ylamine
The title compound was prepared according to General procedure A with starting materials 3-Bromo-7-[(R)-1-(2,6-dichloro-3-fluorophenyl)-ethoxy]-furo[3,2-c]pyridin-6-ylamine and 4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,6-dihydro-2H-pyran. 1H-NMR (CDCl3, 400 MHz): δ=1.86 (d, 3H), 2.40-2.52 (m, 2H), 3.94 (t, J=5.6 Hz, 2H), 4.36 (q, J=2.5 Hz, 2H), 4.77 (br. s., 2H), 6.24 (br. s., 1H), 6.52 (q, J=6.6 Hz, 1H), 7.01-7.10 (m, 1H), 7.29 (t, 1H), 7.37 (s, 1H), 8.24 (s, 1H). MS (ES+): m/z 423.02 (MH+, 35Cl, 37Cl), 424.94 (MH+, 37Cl, 37Cl). HPLC: tR=3.34 min (polar—5 min, ZQ3).

reactant | 3-Bromo-7-[(R)-1-(2,6-dichloro-3-fluorophenyl)-ethoxy]-furo[3,2-c]pyridin-6-ylamine | BrC1=COC2=C1C=NC(=C2O[C@H](C)C2=C(C(=CC=C2Cl)F)Cl)N | C15H10BrCl2FN2O2
reactant | 4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,6-dihydro-2H-pyran | CC1(OB(OC1(C)C)C=1CCOCC1)C | C11H19BO3
product | 7-[(R)-1-(2,6-Dichloro-3-fluorophenyl)-ethoxy]-3-(3,6-dihydro-2H-pyran-4-yl)-furo[3,2-c]pyridin-6-ylamine | ClC1=C(C(=CC=C1F)Cl)[C@@H](C)OC=1C2=C(C=NC1N)C(=CO2)C=2CCOCC2 | C20H17Cl2FN2O3
